US07534797B2
3-[8-chloro-1-(2-phenylquinolin-7-yl)imidazo[1,5-a]pyrazin-3-yl]cyclobutanone
To a solution of 3-[8-chloro-1-(2-phenylquinolin-7-yl)imidazo[1,5-a]pyrazin-3-yl]-1-(hydroxymethyl)cyclobutanol (7.6 mmol) in a THF-water mixture (200 mL, 3:1) was added NaIO4 (1.95 g, 9.2 mmol) at 0° C. The reaction mixture was slowly warmed to rt and stirred for 4 h. The reaction mixture was diluted with EtOAc (200 mL) and washed with brine (2×75 mL). The organic phase was dried over anhydrous Na2SO4 and concentrated in vacuo. The resulting residue was purified by silica gel chromatography (Jones Flashmaster, 70 g/150 mL cartridge), eluting with 1:9 EtOAc/Hex→1:1 EtOAc/Hex to afford the desired product as a yellow solid. 1H NMR (400 MHz, CDCl3) δ 3.70-3.62 (m, 2H), 3.94-3.85 (m, 3H), 7.56-7.45 (m, 4H), 7.64 (d, J=5.2, 1H), 7.94-7.89 (m, 3H), 8.20-8.18 (m, 2H), 8.28 (dd, J=0.4 Hz, 8.4 Hz, 1H), 8.52 (t, J=0.8 Hz, 1H). MS (ES+): m/z 425/427 (3/1) [MH+]. HPLC: tR=3.7 min (Mass Directed purification system polar 5 min method).

reactant | 3-[8-chloro-1-(2-phenylquinolin-7-yl)imidazo[1,5-a]pyrazin-3-yl]-1-(hydroxymethyl)cyclobutanol | 7.6 mmol | ClC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)C2CC(C2)(O)CO | C26H21ClN4O2
reactant | THF water | 200 mL | C1CCOC1.O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 3-[8-chloro-1-(2-phenylquinolin-7-yl)imidazo[1,5-a]pyrazin-3-yl]cyclobutanone | ClC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)C2CC(C2)=O | C25H17ClN4O
